US08530504B2
3-[(Benzyloxy)methyl]cyclobutanone
To a diethyl ether (100 mL) solution of allyl benzyl ether (11.1 g, 75.0 mmol), was added zinc copper couple (74.5 g, 33.0 mmol) while stirring at room temperature, a dimethoxyethane (100 mL) solution of trichloroacetyl chloride (43.6 mL, 375 mmol) was added dropwise, and the mixture was stirred at mom temperature for six hours. The reaction mixture was poured into ice-cooled aqueous sodium hydrogencarbonate (500 mL), extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. The mixture was filtered and then the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=15/1). The obtained dichloro product was dissolved in methanol (200 mL), ammonium chloride (20.0 g, 375 mmol) was added and zinc powder (30.0 g, 450 mmol) was added little by little while vigorously stirring. After the reaction was completed, the insoluble matters were filtered off with Celite, the filtrate was distilled off under reduced pressure. Water was added to the residue, which was extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. The mixture was filtered, and the solvent in the filtrate was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=15/1 then 12/1) to obtain the title compound (7.20 g, 37.9 mmol).

reactant | allyl benzyl ether | 75.0 mmol, 11.1 g | C(C1=CC=CC=C1)OCC=C | C10H12O
reactant | trichloroacetyl chloride | 375 mmol, 43.6 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium hydrogencarbonate | 500 mL | C(O)([O-])=O.[Na+]
reactant | ammonium chloride | 375 mmol, 20.0 g | [Cl-].[NH4+]
catalyst | zinc copper couple | 33.0 mmol, 74.5 g | [Cu].[Zn]
catalyst | zinc | 450 mmol, 30.0 g | [Zn] | Zn
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-[(Benzyloxy)methyl]cyclobutanone | 37.9 mmol, 7.20 g | C(C1=CC=CC=C1)OCC1CC(C1)=O | C12H14O2
